US09381191B2
190 mg (0.408 mmol) of N—(N-(tert-butoxycarbonyl)carbamimidoyl)-2-((3-((4-fluorophenyl)ethynyl)imidazo[1,2-a]pyridin-2-yl)methoxy)acetamide were dissolved in 2 ml of ethanol before adding 1.020 ml (4.08 mmol) of a 4N hydrochloric acid solution in dioxane. The solution was heated to 60° C. for 2 h. The solvent was evaporated in vacuo. By cooling, the crystallised solid was filtered and washed with ethanol. 85 mg (yield=52%) of N-carbamimidoyl-2-((3-((4-fluorophenyl)ethynyl)imidazo[1,2-a]pyridin-2-yl) methoxy)acetamide hydrochloride were obtained as a yellow solid. LC-MS: m/z=366 (MH+) UV purity at 254 nm=99%. 1H NMR (300 MHz, DMSO) δ 11.36 (s, 1H), 8.86 (d, J=6.7 Hz, 1H), 8.55 (d, J=28.4 Hz, 4H), 7.92-7.71 (m, 4H), 7.44-7.31 (m, 3H), 4.99 (s, 2H), 4.40 (s, 2H).

reactant | N—(N-(tert-butoxycarbonyl)carbamimidoyl)-2-((3-((4-fluorophenyl)ethynyl)imidazo[1,2-a]pyridin-2-yl)methoxy)acetamide | 0.408 mmol, 190 mg | C(C)(C)(C)OC(=O)NC(=N)NC(COCC=1N=C2N(C=CC=C2)C1C#CC1=CC=C(C=C1)F)=O | C24H24FN5O4
reactant | hydrochloric acid | 4N | Cl | ClH
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-carbamimidoyl-2-((3-((4-fluorophenyl)ethynyl)imidazo[1,2-a]pyridin-2-yl) methoxy)acetamide hydrochloride | 85 mg, yield=52% | Cl.C(N)(=N)NC(COCC=1N=C2N(C=CC=C2)C1C#CC1=CC=C(C=C1)F)=O | InChI=1S/C19H16FN5O2.ClH/c20-14-7-4-13(5-8-14)6-9-16-15(11-27-12-18(26)24-19(21)22)23-17-3-1-2-10-25(16)17;/h1-5,7-8,10H,11-12H2,(H4,21,22,24,26);1H
